US05508408
Example 28: 4-[3-(7-fluoro-2-quinolinylmethoxy)phenylamino]-2,2-dimethyl-4-oxobutanoic acid
The title compound is prepared analogously to the compound described in Example 20 from 2,2-dimethylsuccinic acid anhydride and 3-(7-fluoro-2-quinolinylmethoxy)aniline; colourless crystals of m.p. 209°-210°.

reactant | 2,2-dimethylsuccinic acid anhydride | CC1(C(=O)OC(C1)=O)C | C6H8O3
reactant | 3-(7-fluoro-2-quinolinylmethoxy)aniline | FC1=CC=C2C=CC(=NC2=C1)COC=1C=C(N)C=CC1 | C16H13FN2O
product | 4-[3-(7-fluoro-2-quinolinylmethoxy)phenylamino]-2,2-dimethyl-4-oxobutanoic acid | FC1=CC=C2C=CC(=NC2=C1)COC=1C=C(C=CC1)NC(CC(C(=O)O)(C)C)=O | C22H21FN2O4
